US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-4-methylpent-2-enenitrile
To a mixture of (R)-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (100 mg, 0.23 mmol, 1.0 eq), 2-cyano-4-methyl-pent-2-enoic acid (38 mg, 0.27 mmol, 1.2 eq) and DIEA (88 mg, 0.68 mmol, 3.0 eq) in 10 ml DCM was added HATU (130 mg, 0.34 mmol, 1.5 eq). The reaction mixture was stirred for 4 h at RT under N2. The mixture was purified by Pre-HPLC to give the title compound (25 mg40% yield). LCMS: m/z+ (562.2) (M+H)+ 1HNMR (400 MHz, CDCl3): δ 0.784˜1.186 (m, 7H), 1.765˜2.254 (m, 5H), 2.861˜4.937 (m, 4H), 6.218 (m, 0.4H), 6.857˜7.600 (m, 6H), 8.255 (s, 1H) and 9.888 (m, 1H).

reactant | (R)-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1-(piperidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.23 mmol, 100 mg, 1.0 eq | FC1=C(OC2=CC(=C(C=C2)C2=NN(C3=NC=NC(=C32)N)[C@H]3CNCCC3)F)C=CC=C1F | C22H19F3N6O
reactant | 2-cyano-4-methyl-pent-2-enoic acid | 0.27 mmol, 38 mg, 1.2 eq | C(#N)C(C(=O)O)=CC(C)C | C7H9NO2
reactant | DIEA | 0.68 mmol, 88 mg, 3.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.34 mmol, 130 mg, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-(3-(4-amino-3-(4-(2,3-difluorophenoxy)-2-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-4-methylpent-2-enenitrile | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=C(C(=CC=C2)F)F)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC(C)C | C29H26F3N7O2
